US06809199B2
To a stirred solution of 2,4-dibromo-6-(2,4-difluorophenyl)-5-methylpyridin-3-amine (10 g, 26.4 mmol, 1 eq) in THF (100 mL) was added tert-butylnitrite (4.7 mL, 39.6 mmol, 1.5 eq). The solution warmed and gas evolution was evident. After 2 h, the mixture was heated to and maintained at 60° C. for 45 min. The mixture was cooled and concentrated in vacuo. The product was purified by flash column chromatography eluting with 2% Et2O in hexanes to give 4,6-dibromo-2-(2,4-difluorophenyl)-3-methylpyridine. Mass spectrum (ESI) 362.2 (M+1); 364.2 (M+3); 366.2 (M+5).

reactant | 2,4-dibromo-6-(2,4-difluorophenyl)-5-methylpyridin-3-amine | 26.4 mmol, 10 g, 1 eq | BrC1=NC(=C(C(=C1N)Br)C)C1=C(C=C(C=C1)F)F | C12H8Br2F2N2
reactant | tert-butylnitrite | 39.6 mmol, 4.7 mL, 1.5 eq | C(C)(C)(C)ON=O | C4H9NO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4,6-dibromo-2-(2,4-difluorophenyl)-3-methylpyridine | BrC1=C(C(=NC(=C1)Br)C1=C(C=C(C=C1)F)F)C | C12H7Br2F2N
